US06083968
To a solution of 60% sodium hydride (0.16 g, 4.0 mmol) in N,N-dimethylformamide (50 ml), 2-(2,4-difluorophenyl)-1-(ethylthio)-1,1-difluoro-3-(1H-1,2,4-triazole-1-yl)-2-propanol (1.0 g, 3.0 mmol) was added dropwise under ice cooling, followed by stirring at room temperature for 30 minutes. Methyl iodide (0.56 g, 3.9 mmol) was then added dropwise to the reaction mixture under ice cooling and the resulting mixture was stirred at room temperature for 1 hour. Water was added to the reaction mixture, followed by extraction with ether. The ether solution was washed with water and dried over sodium sulfate. The solvent was then distilled off under reduced pressure. The residue was subjected to a silica gel column and from the chloroform eluate fraction, 1-[2-(2,4-difluorophenyl)-3-ethylthio-3,3-difluoro-2-methoxypropyl]-1H-1,2,4-triazole (0.81 g, yield: 78%) was obtained as a colorless oil.

reactant | sodium hydride | 4.0 mmol, 0.16 g | [H-].[Na+]
reactant | 2-(2,4-difluorophenyl)-1-(ethylthio)-1,1-difluoro-3-(1H-1,2,4-triazole-1-yl)-2-propanol | 3.0 mmol, 1.0 g | FC1=C(C=CC(=C1)F)C(C(F)(F)SCC)(CN1N=CN=C1)O | C13H13F4N3OS
reactant | Methyl iodide | 3.9 mmol, 0.56 g | CI | CH3I
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 1-[2-(2,4-difluorophenyl)-3-ethylthio-3,3-difluoro-2-methoxypropyl]-1H-1,2,4-triazole | 0.81 g, yield: 78% | FC1=C(C=CC(=C1)F)C(CN1N=CN=C1)(C(F)(F)SCC)OC | C14H15F4N3OS
